US06743794B2
1-Methyl-piperidine-3-carboxylic Acid
To a solution of ethyl 1-methylnipecotate, 0.3 mL (1.65 mmol) in 10 mL of dioxane was added a solution of 118 mg (4.95 mmol) of lithium hydroxide in 10 mL of water. The solution was stirred for 1.5 hours at rt. then was acidified to pH=1 with 5N HCl. The mixture was concentrated to dryness and carried on without further purification. IS (MS) 144.1 (M+1).

reactant | ethyl 1-methylnipecotate | CN1CC(C(=O)OCC)CCC1 | C9H17NO2
reactant | lithium hydroxide | 4.95 mmol, 118 mg | [OH-].[Li+]
reactant | HCl | 5N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
product | 1-Methyl-piperidine-3-carboxylic Acid | CN1CC(CCC1)C(=O)O | C7H13NO2
